US04237136
A mixture of 3.4 g 2-amino-5-methylthiazole, 70 ml of ethanol and 5.1 g of acetylene dicarboxylic acid diethyl ester is left standing for 3 days. The solution is evaporated to dryness and the residue is triturated with ethyl acetate, crystallization occurring. The product is filtered off under suction, washed with ether and dried. The 2-methyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester thus obtained in a yield of 4.5 g (63% of the theoretical) melts at 119°-121° C.

reactant | 2-amino-5-methylthiazole | 3.4 g | NC=1SC(=CN1)C | C4H6N2S
reactant | acetylene dicarboxylic acid diethyl ester | 5.1 g | C(C)OC(=O)C#CC(=O)OCC | C8H10O4
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-methyl-7H-thiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(N=C2N1C=C(S2)C)=O | C10H10N2O3S
